### PR TITLE
feat: allow access to private names through `import all`

### PR DESCRIPTION
**Pull request by Kha**
This PR extends the experimental module system to support resolving private names imported (transitively) through `import all`.

### CODE REVIEW

**Comment by Kha** [comment]
!bench

File: tests/pkg/module/Module/ImportedAll.lean [hunk 1]
```diff
@@ -35,19 +35,7 @@ example : P f := by dsimp only [trfl]; exact hP1
...
--/
-#guard_msgs in
 example : P f := by dsimp only [trflprivate]; exact hP1
-/--
-error: unknown identifier 'trflprivate''
----
-error: dsimp made no progress
--/
-#guard_msgs in
 example : P f := by dsimp only [trflprivate']; exact hP1
```
Comment (Kha) [inline tests/pkg/module/Module/ImportedAll.lean:39]: @nomeata Were these "to be fixed" tests?

**Comment by Kha** [comment]
!bench

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- 🟡 Mathlib branch [lean-pr-testing-8828](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8828) build against this PR was cancelled. (2025-06-17 09:08:39) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15702317566)
- ✅ Mathlib branch [lean-pr-testing-8828](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8828) has successfully built against this PR. (2025-06-17 09:53:04) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15702964491)
